US07659421B2
Step 4: Synthesis of 4-(1-Ethyl-1-hydroxypropyl)-2-propylphenylboronic acid
In a three-necked flask, introduce under nitrogen 5 g of 3-(4-bromo-3-propylphenyl)pentan-3-ol (17.5 mmol) and 50 cm3 of tetrahydrofuran. Cool the mixture to −70° C. and add dropwise 17.5 cm3 (43.7 mmol) of a 2.5M solution of n-butyllithium in hexane, over 30 minutes. Leave the reaction mixture for approximately 2 h with stirring at −70° C. and then add dropwise 10 cm3 of triisopropylborate (43.7 mmol), over 20 minutes. Leave the reaction mixture with stirring for 4 h, allowing the temperature to increase to −40° C. Hydrolyse the mixture with saturated NH4Cl solution and extract twice with ethyl acetate. Wash the combined organic phases with saturated sodium chloride solution and evaporate the solvents under vacuum. This gives 5.4 g of a colorless oil, which is chromatographed on silica gel (heptane/ethyl acetate=3/1). This gives 1.92 g of 4-(1-ethyl-1-hydroxypropyl)-2-propylphenylboronic acid in the form of a highly viscous oil. (Yield=44%)

reactant | 3-(4-bromo-3-propylphenyl)pentan-3-ol | 17.5 mmol | BrC1=C(C=C(C=C1)C(CC)(CC)O)CCC | C14H21BrO
reactant | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
reactant | n-butyllithium | C(CCC)[Li]
reactant | triisopropylborate | 43.7 mmol, 10 cm3 | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
solvent | hexane | CCCCCC | C6H14
product | 4-(1-Ethyl-1-hydroxypropyl)-2-propylphenylboronic acid | Yield=44% | C(C)C(CC)(O)C1=CC(=C(C=C1)B(O)O)CCC | C14H23BO3
